### PR TITLE
[Merged by Bors] - feat (Mathlib/SetTheory/Ordinal/Arithmetic): add bounded recursion on ordinals

### PR DESCRIPTION
**Pull request by YnirPaz**
Add a recursion principal defining functions with domain `Iio o` for an ordinal `o`.

---

This has been discussed in #14060.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
     @limitRecOn C o H₁ H₂ H₃ = H₃ o h fun x _h => @limitRecOn C x H₁ H₂ H₃ := by
   simp_rw [limitRecOn, SuccOrder.prelimitRecOn_limit _ _ h.isSuccPrelimit, dif_neg h.1]
 
+/-- Bounded recursion on ordinals. Similar to `limitRecOn`, with the assumption `o < l`
+  added to all cases. The final term's domain is the ordinals below `Iio l`. -/
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:305]:
```suggestion
  added to all cases. The final term's domain is the ordinals below `l`. -/
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+@[elab_as_elim]
+def boundedLimitRec {l : Ordinal} (hLim : l.IsLimit) {C : Iio l → Sort*} (H₁ : C ⟨0, hLim.pos⟩)
+    (H₂ : (o : Iio l) → C o → C ⟨o + 1, hLim.succ_lt o.2⟩)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:308]: Note that in the current API, `succ o` is the preferred form to `o + 1`. There are however plans to change this in the near future, so I'll leave to you keeping this as `o + 1` or changing it to `succ o`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+    (H₃ : (o : Iio l) → IsLimit o → (Π o' < o, C o') → C o) :
+    (o : Iio l) → C o :=
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:310]: This argument was at the start in `limitRecOn`, so I think it'd be good matching that and renaming this to `boundedLimitRecOn`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 4]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+@[simp]
+theorem boundedLimitRec_limit {l : Ordinal} (lLim : l.IsLimit) {C} (o H₁ H₂ H₃ oLim) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ o = H₃ o oLim (fun x _ ↦
+    @boundedLimitRec l lLim C H₁ H₂ H₃ x) := by
+  simp_all only [boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast, limitRecOn_limit,
+    dite_true, cast_cast, cast_eq]
+
+/-- Bounded recursion on the ordinals with a constant return type. Similar to `boundedLimitRec`,
+  but with a constant motive function. Useful for defining functions to ordinals. -/
+def boundedLimitRec' {α : Sort*} {l : Ordinal} (lLim : l.IsLimit) (H₁ : α)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:337]: I really don't think this is necessary. The elaborator can be a bit finicky when using recursive principles, but usually the fix is just using `refine` or `induction` instead of `apply`.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 5]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+
+@[simp]
+theorem boundedLimitRec_succ {l} (lLim : l.IsLimit) {C} (o : Iio l) (H₁ H₂ H₃) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ ⟨succ o.1, lLim.succ_lt o.2⟩ = H₂ o
+    (@boundedLimitRec l lLim C H₁ H₂ H₃ o) := by
+  simp_all only [add_one_eq_succ, boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast,
+    limitRecOn_succ, dite_true, cast_cast, cast_eq]
+
+@[simp]
+theorem boundedLimitRec_limit {l : Ordinal} (lLim : l.IsLimit) {C} (o H₁ H₂ H₃ oLim) :
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:329]: We don't have many `simp` lemmas on specific limit ordinals, so in practice this will rarely if ever fire as a `simp` lemma. `limitRecOn_limit` shouldn't have been a `simp` lemma either.

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 6]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+
+@[simp]
+theorem boundedLimitRec_zero {l} (lLim : l.IsLimit) {C} (H₁ H₂ H₃) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ ⟨0, lLim.pos⟩ = H₁ := by
+  simp_all only [boundedLimitRec, limitRecOn_zero, id_eq,
+    eq_mpr_eq_cast, eq_mp_eq_cast, cast_cast, cast_eq]
+
+@[simp]
+theorem boundedLimitRec_succ {l} (lLim : l.IsLimit) {C} (o : Iio l) (H₁ H₂ H₃) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ ⟨succ o.1, lLim.succ_lt o.2⟩ = H₂ o
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:323]: How come this is written with `succ` but the definition of `boundedLimitRec` is written with `o + 1`?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 7]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+    (o : Iio l) → C o :=
+  fun o ↦ limitRecOn (C := fun p ↦ (h : p < l) → C ⟨p, h⟩) o.1 (fun _ ↦ H₁)
+    (fun o ih h ↦ H₂ ⟨o, _⟩ <| ih <| (lt_succ o).trans h)
+    (fun _o ho ih _ ↦ H₃ _ ho fun _o' h ↦ ih _ h _) o.2
+
+@[simp]
+theorem boundedLimitRec_zero {l} (lLim : l.IsLimit) {C} (H₁ H₂ H₃) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ ⟨0, lLim.pos⟩ = H₁ := by
+  simp_all only [boundedLimitRec, limitRecOn_zero, id_eq,
+    eq_mpr_eq_cast, eq_mp_eq_cast, cast_cast, cast_eq]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:319]:
```suggestion
  rw [boundedLimitRec, limitRecOn_zero]
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 8]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+
+@[simp]
+theorem boundedLimitRec_succ {l} (lLim : l.IsLimit) {C} (o : Iio l) (H₁ H₂ H₃) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ ⟨succ o.1, lLim.succ_lt o.2⟩ = H₂ o
+    (@boundedLimitRec l lLim C H₁ H₂ H₃ o) := by
+  simp_all only [add_one_eq_succ, boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast,
+    limitRecOn_succ, dite_true, cast_cast, cast_eq]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:326]:
```suggestion
  rw [boundedLimitRec, limitRecOn_succ] 
  rfl
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 9]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
     @limitRecOn C o H₁ H₂ H₃ = H₃ o h fun x _h => @limitRecOn C x H₁ H₂ H₃ := by
   simp_rw [limitRecOn, SuccOrder.prelimitRecOn_limit _ _ h.isSuccPrelimit, dif_neg h.1]
 
+/-- Bounded recursion on ordinals. Similar to `limitRecOn`, with the assumption `o < l`
+  added to all cases. The final term's domain is the ordinals below `Iio l`. -/
+@[elab_as_elim]
+def boundedLimitRec {l : Ordinal} (hLim : l.IsLimit) {C : Iio l → Sort*} (H₁ : C ⟨0, hLim.pos⟩)
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:307]: You use `hLim` for the limit hypothesis here, but `lLim` elsewhere. Can you choose either one?

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 10]
```diff
@@ -301,6 +301,61 @@ theorem limitRecOn_limit {C} (o H₁ H₂ H₃ h) :
...
+    (@boundedLimitRec l lLim C H₁ H₂ H₃ o) := by
+  simp_all only [add_one_eq_succ, boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast,
+    limitRecOn_succ, dite_true, cast_cast, cast_eq]
+
+@[simp]
+theorem boundedLimitRec_limit {l : Ordinal} (lLim : l.IsLimit) {C} (o H₁ H₂ H₃ oLim) :
+    @boundedLimitRec l lLim C H₁ H₂ H₃ o = H₃ o oLim (fun x _ ↦
+    @boundedLimitRec l lLim C H₁ H₂ H₃ x) := by
+  simp_all only [boundedLimitRec, eq_mpr_eq_cast, eq_mp_eq_cast, limitRecOn_limit,
+    dite_true, cast_cast, cast_eq]
```
Comment (vihdzp) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean:333]:
```suggestion
  rw [boundedLimitRec, limitRecOn_limit _ _ _ _ oLim]
  rfl
```

**Review by vihdzp — APPROVED** [review]
Thanks! Hopefully I didn't come off as too harsh during the review. There's just a lot of weird idiosyncrasies in this part of the library that need to be cleaned up...

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by sgouezel** [comment]
Can you merge master, fix the build, and then send it back to bors?
bors d+
